US06982278B2
The crude 2-methyl-2-(4-{2-[5-methyl-2-(4-phenoxy-phenyl)-oxazol-4-yl]-ethoxy}-phenoxy)-propionic acid ethyl ester (0.316 g, 0.614 mmol) was combined with 5 N NaOH (0.61 mL, 3.05 mmol) in absolute EtOH (20 mL) and heated to reflux for 3 h. The reaction mixture was cooled, filtered through hyflo, and the solvent removed in vacuo from the filtrate. The residue was acidified with 1 N HCl (3.2 mL) and then extracted with EtOAc and water. The organic layer was dried (MgSO4) and the solvent removed in vacuo to give 0.282 g of crude 2-methyl-2-(4-{2-[5-methyl-2-(4-phenoxy-phenyl)-oxazol-4-yl]-ethoxy}-phenoxy)-propionic acid. Approximately ⅓ of this material was purified by LCMS to afford 0.014 g of analytically pure 2-methyl-2-(4-{2-[5-methyl-2-(4-phenoxy-phenyl)-oxazol-4-yl]-ethoxy}-phenoxy)-propionic acid: 1H NMR (500 MHz, CDCl3) δ 7.90 (d, 2H, J=8.80 Hz), 7.36-7.32 (m, 2H), 7.18-7.12 (m, 1H), 7.03-6.99 (m, 3H), 6.88-6.86 (m, 2H), 6.79-6.77 (m, 3H), 4.16 (t, 2H, J=6.84 Hz), 2.94 (t, 2H, J=6.84 Hz), 2.34 (s, 3H), 1.44 (s, 6H). HRMS (ES+) m/z exact mass calcd for C28H28NO6 474.1917, found 474.1929.

reactant | 2-methyl-2-(4-{2-[5-methyl-2-(4-phenoxy-phenyl)-oxazol-4-yl]-ethoxy}-phenoxy)-propionic acid ethyl ester | 0.614 mmol, 0.316 g | C(C)OC(C(C)(OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)OC1=CC=CC=C1)C)=O | C30H31NO6
reactant | NaOH | 3.05 mmol, 5 N, 0.61 mL | [OH-].[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
product | 2-methyl-2-(4-{2-[5-methyl-2-(4-phenoxy-phenyl)-oxazol-4-yl]-ethoxy}-phenoxy)-propionic acid | 0.282 g | CC(C(=O)O)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)OC1=CC=CC=C1 | C28H27NO6
